US09238660B1
4-(Pentafluorosulfanyl)benzenediazonium Tetrafluoroborate (1)
A solution of 1-(pentafluorosulfanyl)benzene (495.9 mg, 2.263 mmol) in CH2Cl2 (10 mL) was added dropwise to BF3.OEt2 (493.3 mg, 3.476 mmol) in a flask cooled with an ice-water bath. tert-Butyl nitrite (300.1 mg, 2.910 mmol) in 2 mL of CH2Cl2 was added dropwise and stirred at 0° C. for 1 h. The precipitated colorless crystals were isolated by filtration. The crystals was dissolve in CH3CN (0.4 mL) and precipitated by addition of ether to give pale yellow solid crystals, which were washed with diethyl ether. Removal of the solvent under vacuum afforded the title compound as pale yellow crystals (605.1 mg, 84%): IR (ATR): {tilde over (v)}=2924, 2852, 2309, 1574, 1418, 1304, 1053, 768 cm−1. 1H NMR (500 MHz, CD3CN): δ=8.72 (d, J=9.2 Hz, 2H), 8.40 (d, J=9.2 Hz, 2H) ppm. 13C NMR (125 MHz, CD3COCD3): δ=160.4, (C), 134.4 (2CH), 129.5 (2CH), 120.4 (C) ppm. 19F NMR (470 MHz, CD3CN): δ=77.7 (quint, J=151 Hz, 1 F), 60.9 (d, J=151 Hz, 4 F), −151.5 (s, 4 F) ppm.

reactant | 1-(pentafluorosulfanyl)benzene | 2.263 mmol, 495.9 mg | FS(C1=CC=CC=C1)(F)(F)(F)F | C6H5F5S
reactant | BF3.OEt2 | 3.476 mmol, 493.3 mg | B(F)(F)F.CCOCC
reactant | tert-Butyl nitrite | 2.910 mmol, 300.1 mg | N(=O)OC(C)(C)C | C4H9NO2
reactant | CH3CN | 0.4 mL | CC#N | C2H3N
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-(Pentafluorosulfanyl)benzenediazonium Tetrafluoroborate | 605.1 mg, 84% | F[B-](F)(F)F.FS(C1=CC=C(C=C1)[N+]#N)(F)(F)(F)F | InChI=1S/C6H4F5N2S.BF4/c7-14(8,9,10,11)6-3-1-5(13-12)2-4-6;2-1(3,4)5/h1-4H;/q+1;-1
